US05191132
Preparation of 9-(trimethylsilyl)fluorene
First, 8.3 g (0.05 m) of fluorene was dissolved in 150 ml of tetrahydrofuran. Then 31.8 ml (0.05 m) of butyl lithium (1.6 molar in hexane) was added dropwise to this solution. After a stirring period of one hour, 6.3 ml (0.05 mol) of chlorotrimethylsilane, dissolved in 25 ml of tetrahydrofuran was added to this solution over 3 hours. The reaction mixture was stirred for an additional 3 hours. Then, 50 ml of an aqueous NH4Cl solution was added to the dark yellow solution. The solution was treated with 50 ml of water. The organic phase was dried over Na2SO4. Then the solvent was removed in vacuo. The yellow residue was dissolved in pentane. The product 9-(trimethylsilyl)fluorene was crystallized at 4° C. A yield of 8.33 g was obtained.

reactant | fluorene | 8.3 g | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
reactant | butyl lithium | 1.6 molar, 31.8 ml | C(CCC)[Li]
reactant | chlorotrimethylsilane | 0.05 mol, 6.3 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | NH4Cl | 50 ml | [NH4+].[Cl-]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | water | 50 ml | O | H2O
product | 9-(trimethylsilyl)fluorene | C[Si](C1C2=CC=CC=C2C=2C=CC=CC12)(C)C | C16H18Si
